US04751015
Preparation of 1,1-Dimethyl-3-hydroxypiperidinium Chloride
3-hydroxy-1-methylpiperidine (21.7 g, 0.188 mol), iodomethane (40.0 g, 0.280 mol) and methylene chloride (50 ml).

reactant | 3-hydroxy-1-methylpiperidine | 0.188 mol, 21.7 g | OC1CN(CCC1)C | C6H13NO
reactant | iodomethane | 0.280 mol, 40.0 g | IC | CH3I
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethyl-3-hydroxypiperidinium Chloride | [Cl-].C[N+]1(CC(CCC1)O)C | InChI=1S/C7H16NO.ClH/c1-8(2)5-3-4-7(9)6-8;/h7,9H,3-6H2,1-2H3;1H/q+1;/p-1
